US07459472B2
2-(S)-(5-Bromo-2-hydroxy-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid
To a solution of the preceding compound, (2S)-(5-Bromo-2-hydroxy-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester (10 mg, 18 μmol) in THF/MeOH was added aqueous LiOH, as described in General procedure C which, after work-up afforded the title compound, (2S)-(5-Bromo-2-hydroxy-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid (10 mg ) LCMS for C28H22BrNO5: 531, 533.

reactant | (2S)-(5-Bromo-2-hydroxy-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | 18 μmol, 10 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)O)=O)=O | C29H24BrNO5
reactant | LiOH | [Li+].[OH-]
solvent | THF MeOH | C1CCOC1.CO
product | (2S)-(5-Bromo-2-hydroxy-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)-propionic acid | 10 mg | BrC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC=CC=C2)C1)O | C28H22BrNO5
